US06949648B2
4-Hydroxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid
A suspension of ethyl 4-hydroxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (2.0 g, 6.7 mmol) in 6N hydrochloric acid solution (10 mL) was heated and stirred at 100° C. for 1 hour. The solution was cooled to room temperature, made weakly acidic by the addition of an aqueous sodium hydroxide solution, and the resulting precipitate was collected by filtration. The crude crystals thus obtained were washed with water and dried to give the title compound (0.6 g, 33% yield).

reactant | ethyl 4-hydroxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 6.7 mmol, 2.0 g | OC1=C2C(=NC=C1C(=O)OCC)N(N=C2C)C2=NC=CC=C2 | C15H14N4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 6N, 10 mL | Cl | ClH
product | 4-Hydroxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | 0.6 g, 33% yield | OC1=C2C(=NC=C1C(=O)O)N(N=C2C)C2=NC=CC=C2 | C13H10N4O3
